US07067537B2
ii) Production of 5-cyanonicotinamide
5-Bromonicotinamide (905 mg) and copper cyanide (630 mg) were suspended in DMF (15 ml) and the mixture was stirred at 140° C. for 24 hrs. Aqueous ammonia was added to the reaction mixture at room temperature and the solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography (eluent, methanol:ethyl acetate=1:10) for purification to give the title compound (110 mg) as a colorless powder.

reactant | 5-Bromonicotinamide | 905 mg | BrC=1C=NC=C(C(=O)N)C1 | C6H5BrN2O
reactant | copper cyanide | 630 mg | [Cu](C#N)C#N
reactant | ammonia | N | H3N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 5-cyanonicotinamide | 110 mg | C(#N)C=1C=NC=C(C(=O)N)C1 | C7H5N3O
